US05470896
53.1 g (0.2 mol) of 2,4,6-tris(dimethylaminomethyl)phenol and 100 ml of H2O are placed in a 500 ml round-bottomed flask having a magnetic stirrer and dropping funnel and, with stirring, 16.0 g (0.2 mol) of a 50% aqueous NaOH solution are added dropwise thereto. The clear, slightly yellow solution is concentrated by evaporation in a rotary evaporator at 70° C., and the residue is dried at 100° C./125 T (16.6×103Pa), yielding 55.1 g of sodium 2,4,6-tris(dimethylaminomethyl)phenolate in the form of a brownish solid of which the elemental analysis is as follows:

reactant | 2,4,6-tris(dimethylaminomethyl)phenol | 0.2 mol, 53.1 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)O | C15H27N3O
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 100 ml | O | H2O
product | sodium 2,4,6-tris(dimethylaminomethyl)phenolate | 55.1 g | CN(C)CC1=C(C(=CC(=C1)CN(C)C)CN(C)C)[O-].[Na+] | InChI=1S/C15H27N3O.Na/c1-16(2)9-12-7-13(10-17(3)4)15(19)14(8-12)11-18(5)6;/h7-8,19H,9-11H2,1-6H3;/q;+1/p-1
